US08026257B2
7-(((4-(4-Fluorophenyl)piperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-indazole.
tert-Butyl 4-(4-fluorophenyl)-4-(((5-(trifluoromethyl)-1H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate (75 mg, 0.148 mmol) was dissolved in trifluoroacetic acid (25% in dichloromethane, 1 mL) and stirred at room temperature for 15 min. The reaction was concentrated and loaded onto a strong cation exchange cartridge in methanol. The cartridge was flushed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol and concentrated to give 59 mg (98%). 1H-NMR (CDCl3, 500 MHz) δ 8.06 (s, 1H), 7.94 (s, 1H), 7.20-7.40 (m, 3H), 7.07 (m, 2H), 4.71 (s, 2H), 3.50 (s, 2H), 3.43 (s, 2H), 2.88 (m, 2H), 2.72 (m, 2H), 2.12 (m, 2H), 1.85 (m, 2H); 13C-NMR (CDCl3, 126 MHz) δ 162.5, 160.5, 139.6, 139.5, 135.3, 128.64, 128.58, 124.7 (q, J=272 Hz), 123.2 (q, J=32 Hz), 122.9, 121.8, 120.6, 118.5 (q, J=3.8 Hz), 115.8, 115.6, 80.3, 71.6, 50.5, 42.4, 41.4, 33.7. Mass spec.: 408.09 (MH)+. Accurate mass spec.: m/z 408.1680 [MH]+, Δ=4.7 ppm.

reactant | tert-Butyl 4-(4-fluorophenyl)-4-(((5-(trifluoromethyl)-1H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate | 0.148 mmol, 75 mg | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC=1C=C(C=C2C=NNC12)C(F)(F)F | C26H29F4N3O3
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 7-(((4-(4-Fluorophenyl)piperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-indazole | FC1=CC=C(C=C1)C1(CCNCC1)COCC=1C=C(C=C2C=NNC12)C(F)(F)F | C21H21F4N3O
